US09079866B2
4′-(5-Aminopyrazin-2-yl)-N-tert-butyl-3′,4-difluorobiphenyl-2-carboxamide
The title compound was prepared using methods analogous to those described in Example 369 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromo-N-(tert-butyl)-5-fluorobenzamide. MS (ESI): mass calcd. for C21H20F2N4O, 382.16; m/z found, 383.2 [M+H]+.

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-(tert-butyl)-5-fluorobenzamide | BrC1=C(C(=O)NC(C)(C)C)C=C(C=C1)F | C11H13BrFNO
product | 4′-(5-Aminopyrazin-2-yl)-N-tert-butyl-3′,4-difluorobiphenyl-2-carboxamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)F)C(=O)NC(C)(C)C)F | C21H20F2N4O
